US07855297B2
N-(4-Isopropylphenyl)-N-[3-(tetrahydropyran-2-yloxy)propyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.24 g) was dissolved in a mixed solvent (7 mL) of acetic acid: THF: water (4:2:1) and stirred at room temperature for 2 hr. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give N-(3-hydroxypropyl)-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.12 g).

reactant | N-(4-Isopropylphenyl)-N-[3-(tetrahydropyran-2-yloxy)propyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.24 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=CC=C12)CCCOC1OCCCC1 | C28H37NO3
solvent | acetic acid THF water | 7 mL | C(C)(=O)O.C1CCOC1.O
product | N-(3-hydroxypropyl)-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.12 g | OCCCN(C(=O)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C | C23H29NO2
